US06894061B2
3-[(3-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol
The title compound was prepared from 3-fluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (350 mg, 0.91 mmol), cyclohexene (1.85 mL, 18 mmol), and 1.0 M solution of boron tribromide in dichloromethane (5.5 mL) according to the procedure and in the same manner as described in Example 105, step e. The volatile components were removed in vacuo and the crude residue was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 30%-50% methyl tert-butyl ether in hexane, to afford the desired compound (77 mg, 30%) as a solid, m.p. 164-167° C.;

reactant | 3-fluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 0.91 mmol, 350 mg | FC=1C=CC=2C3=CC=CC=C3C(N(C2C1)S(=O)(=O)C1=CC(=CC=C1)OC)C | C21H18FNO3S
reactant | cyclohexene | 18 mmol, 1.85 mL | C1=CCCCC1 | C6H10
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5.5 mL | ClCCl | CH2Cl2
product | 3-[(3-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol | 77 mg, 30% | FC=1C=CC=2C3=CC=CC=C3C(N(C2C1)S(=O)(=O)C=1C=C(C=CC1)O)C | C20H16FNO3S
